US07534797B2
trans-[3-(4-Chloro-5-iodopyrrolo[2,3-d]pyrimidin-7-yl)-cyclobutyl]-methanol
To a solution of trans-3-(4-chloro-5-iodopyrrolo[2,3-d]pyrimidin-7-yl)-cyclobutanecarboxylic acid methyl ester (trans/cis=5:1) (116.5 mg, 0.297 mmol) in CH2Cl2 (5 mL), cooled by dry ice/acetone, was added DIBAL (1M in toluene, 0.65 mL, 0.65 mmol). After 40 min, the dry ice/acetone bath was replaced with and ice/water bath. The reaction was quenched 2 h later by adding potassium sodium tartrate solution, the mixture was extracted with CH2Cl2 (3×20 mL), the combined extracts were washed with NaHCO3 solution and brine, dried over MgSO4, filtered, and concentrated to give the target compound as 5:1 trans/cis mixture. This material was chromatographed on silica gel [Jones Flashmaster, 5 g/25 mL cartridge, eluting with CH2Cl2 (1-8)→CH2Cl2:EtOAc 9:1 (9-19)→CH2Cl2:EtOAc 5:1 (20-47)→CH2Cl2:EtOAc 3:1 (48-60)] to give the title compound with trans/cis=25:1. A forerunning fraction enriched with the cis isomer was also isolated. 1H NMR (CDCl3, 400 MHz)δ 2.42-2.57 (m, 2H), 2.58-2.72 (m, 3H), 3.85 (brs, 2H), 5.36-5.48 (mc, 1H), 7.61 (s, 1H), 8.60 (s, 1H). MS (ES+): m/z 363.9/365.9 (100/36) [MH+]. HPLC:tR=3.0 min (OpenLynx, polar—5 min). trans-3-(4-Chloro-5-iodopyrrolo[2,3-d]pyrimidin-7-Yl)-cyclobutanecarboxylic acid methyl ester

reactant | trans-3-(4-chloro-5-iodopyrrolo[2,3-d]pyrimidin-7-yl)-cyclobutanecarboxylic acid methyl ester | 0.297 mmol, 116.5 mg | COC(=O)[C@@H]1C[C@H](C1)N1C=C(C2=C1N=CN=C2Cl)I | C12H11ClIN3O2
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | DIBAL | 0.65 mmol, 1M, 0.65 mL | CC(C)C[AlH]CC(C)C
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | trans-[3-(4-Chloro-5-iodopyrrolo[2,3-d]pyrimidin-7-yl)-cyclobutyl]-methanol | ClC=1C2=C(N=CN1)N(C=C2I)[C@@H]2C[C@H](C2)CO | C11H11ClIN3O
